US04820698
22.2 g (44.0 mmol) of tetra-n-hexyl methylenebisphosphonate, 6.61 g (220.0 mmol) of paraformaldehyde and 3.22 g (64.0 mmol) of diethylamine are combined with the same reactants and the same conditions as described above in Example I. This mixture is then refluxed for 48 hours. After the methanol is eliminated as described above in Example I, about 17 g of tetra-n-hexyl ethenylidenebisphosphonate is produced as a clear liquid.

reactant | tetra-n-hexyl methylenebisphosphonate | 44.0 mmol, 22.2 g | C(P(OCCCCCC)(OCCCCCC)=O)P(OCCCCCC)(OCCCCCC)=O | C25H54O6P2
reactant | paraformaldehyde | 220.0 mmol, 6.61 g | C=O | CH2O
reactant | diethylamine | 64.0 mmol, 3.22 g | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
product | tetra-n-hexyl ethenylidenebisphosphonate | about 17 g | C(=C)(P(OCCCCCC)(OCCCCCC)=O)P(OCCCCCC)(OCCCCCC)=O | C26H54O6P2
